US07157447B2
N-(2-(2,5-Dioxo-2H-pyrrol-1(5H)-yl)benzyl)-3-hydroxy-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide.
To a solution of N-(2-aminobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide (0 050 g, 0.114 mmol) in acetic acid (1.5 mL) was added maleic anhydride (0.013 g, 0.131 mmol) and the reaction mixture stirred in a sealed tube at 115 C for 18 h. Acetic acid was evaporated in vacuo and the residue was purified by preparative HPLC (YMC-Pack C-18) to afford the title compound (0.013 g, 27% yield): 1H NMR (400 MHz, CDCl3) δ ppm: 8.03 (1H, broad t), 7.59 (1H, m), 7.48 (2H, m), 7.19 (1H, m), 6.92 (2H, s), 4.48 (2H, d, J=6.1 Hz), 4.04 (4H, s), 1.62 (6H, s); HRMS calcd for C21H21N4O6: 425.1461. found 425.1451.

reactant | N-(2-aminobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | 0.114 mmol | NC1=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=CC=C1 | C24H26N4O4
reactant | maleic anhydride | 0.131 mmol, 0.013 g | C1(\C=C/C(=O)O1)=O | C4H2O3
solvent | acetic acid | 1.5 mL | C(C)(=O)O | C2H4O2
product | N-(2-(2,5-Dioxo-2H-pyrrol-1(5H)-yl)benzyl)-3-hydroxy-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | 0.013 g, 27% yield | O=C1N(C(C=C1)=O)C1=C(CNC(=O)C=2N=C3C(OCCN3C(C2O)=O)(C)C)C=CC=C1 | C21H20N4O6
